US06982274B2
7-Fluoro-3-naphthalen-2-yl-1H-indazole-5-carboxylic acid
To 1.0 g of 7-fluoro-3-naphthalen-2-yl-1H-indazole-5-carbonitrile were sequentially added 5.0 ml of glacial acetic acid, 5.0 ml of water and 10.0 ml of concentrated sulfuric acid, and the mixture was stirred at 120° C. for one day. After standing to cool, 20 ml of water was added to the reaction mixture and the resulting crystals were collected by filtration. The crystals were sequentially washed with water and diethyl ether, to give 1.0 g of the title compound as colorless crystals.

reactant | 7-fluoro-3-naphthalen-2-yl-1H-indazole-5-carbonitrile | 1.0 g | FC=1C=C(C=C2C(=NNC12)C1=CC2=CC=CC=C2C=C1)C#N | C18H10FN3
reactant | acetic acid | 5.0 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 10.0 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 20 ml | O | H2O
solvent | water | 5.0 ml | O | H2O
product | 7-Fluoro-3-naphthalen-2-yl-1H-indazole-5-carboxylic acid | 1.0 g | FC=1C=C(C=C2C(=NNC12)C1=CC2=CC=CC=C2C=C1)C(=O)O | C18H11FN2O2
